US08609849B1
(2-Fluoro-phenyl)-hydroxypropionitrile.
To a stirring solution of diisopropylamine (5.95 mL, 42.7 mmol) in tetrahydrofuran (100 mL) at −70° C. under nitrogen was added a solution of n-butyllithium (17.6 mL, 44 mmol, 2.5 M in hexane). After the addition was complete, the mixture was stirred at −70° C. for 10 minutes and removed cooling bath for 5 minutes. The mixture was cooled back to −70° C., acetonitrile (2 mL, 38.1 mmol) was added and the reaction mixture was then stirred at −70° C. for 30 minutes. 2-fluoro-benzaldehyde (5 mL, 47.4 mmol) was added and the resulting solution was allowed to warm to ambient temperature. After 18 hours at ambient temperature, saturated aqueous ammonium chloride (5 mL) was added to the reaction mixture and it was concentrated at reduced pressure. The resulting crude product was diluted with ethyl acetate (125 mL), washed with water (75 mL) followed by saturated aqueous sodium chloride (50 mL). The organic layer was concentrated and purified by column chromatography (80 g silica gel cartridge) eluting with ethyl acetate/hexane (10%-30%) to give the product as a colorless oil (6.5 g, 83%).

reactant | diisopropylamine | 42.7 mmol, 5.95 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 44 mmol, 2.5 M, 17.6 mL | C(CCC)[Li]
reactant | acetonitrile | 38.1 mmol, 2 mL | C(C)#N | C2H3N
reactant | 2-fluoro-benzaldehyde | 47.4 mmol, 5 mL | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (2-Fluoro-phenyl)-hydroxypropionitrile | 6.5 g, 83% | FC1=C(C=CC=C1)C(C#N)(C)O | C9H8FNO
